US06624161B2
2-Hexadecyloxy-6-methyl-4H-3,1-benzoxazin-4-one (Compound 18)
2-Amino-5-methylbenzoic acid (2.71 g, 17.9 mmol, 0.87 eq.) was dissolved in pyridine (24 ml) and added to the chloroformate solution prepared above. The mixture was stirred at room temperature for 1.75 hours. Methyl chloroformate (13.6 ml, 176 mmol, 8.5 eq) was added slowly, then the mixture was left to stir at ambient temperature overnight. The mixture was diluted with ethyl acetate (20 ml) and washed with water (15 ml) and 10% aqueous citric acid (20 ml). The combined aqueous phases were extracted with ethyl acetate (20 ml). The organic extracts were combined and washed with water (20 ml) and brine (20 ml) then concentrated to give a solid. This was slurried in pentane (5 ml), filtered, then slurried in acetonitrile (5 ml), filtered and purified by flash chromatography on silica (1.5% diisopropylethylamine in dichloromethane) to give a white solid (2.51 g, 31%) δH (400 MHz, CDCl3) 0.87 (3H, t, J 6.8, CH2CH3), 1.24-1.45 (26H, m, 13×CH2), 1.75-1.83 (2H, m, OCH2), 2.41 (3H, s, ArCH3), 4.41 (2H, t, J 6.7, OCH2), 7.30 (1H, d, J 8.3, ArH), 7.51 (1H, dd, J 8.5, 2.0, ArH), 7.90 (1H, d, J 1.1, ArH); m/z (ES+) 402 (MH+); MPt. 72-73° C.

reactant | 2-Amino-5-methylbenzoic acid | 17.9 mmol, 2.71 g, 0.87 eq. | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | chloroformate | ClC(=O)[O-]
reactant | Methyl chloroformate | 176 mmol, 13.6 ml, 8.5 eq | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | pentane | 5 ml | CCCCC | C5H12
product | 2-Hexadecyloxy-6-methyl-4H-3,1-benzoxazin-4-one | 2.51 g, 31% | C(CCCCCCCCCCCCCCC)OC1=NC2=C(C(O1)=O)C=C(C=C2)C | C25H39NO3
